US07344702B2
Synthesis of 4-(2-hydroxyethoxymethyl)benzoic acid methyl ester
To a two-neck round bottom flask, which was equipped with a Dewar condenser, a solution of 4-hydroxymethylbenzoic acid methyl ester (2.50 g, 0.015 mol) in anhydrous dichloromethane (30 mL) was cooled to −10° C. in a salt/ice bath. Ethylene oxide (1.10 mL) was added to the cooled stirring solution dropwise followed by the addition of boron trifluoride etherate (0.51 ml). The reaction mixture was stirred for 45 minutes and then warmed to room temperature for 30 minutes to boil off any excess of ethylene oxide in the reaction mixture. The reaction mixture was then diluted with brine. The aqueous layer was extracted with dichloromethane (3 times). All of the organic layers were combined, dried over Na2SO4, filtered, and concentrated to provide an oil. The crude material was purified using silica gel chromatography (4:1 pentane:ethyl acetate) to provide the desired product (537 mg, 2.56 mmol) in 17% yield. 1H (CDCl38.36, 600 MHz): δ (2H, d, J=8.4 Hz), 7.41 (2H, d, J=8.5 Hz), 4.62 (3H, s), 3.92 (2H, s), 3.78 (m, 2H), 3.63 (2H, m); 13C (CDCl3167.1, 143.5, 130.0, 129.8, 127.5, 72.9, 72.0, 150 MHz): δ 62.1, 52.3.

reactant | 4-hydroxymethylbenzoic acid methyl ester | 0.015 mol, 2.50 g | COC(C1=CC=C(C=C1)CO)=O | C9H10O3
reactant | Ethylene oxide | 1.10 mL | C1CO1 | C2H4O
reactant | boron trifluoride etherate | 0.51 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 4-(2-hydroxyethoxymethyl)benzoic acid methyl ester | 2.56 mmol, 537 mg, 17% yield | COC(C1=CC=C(C=C1)COCCO)=O | C11H14O4
